US07846925B2
To a mixture of 2-formyl-4-bromophenoxy acetic acid (50 g, 0.192 mol), sodium acetate (100 g, 1.21 mol) in acetic acid (250 mL) at 100° C. was added acetic anhydride (100 mL) portions during a period of 3 h. The reaction mixture was then refluxed for 20 h. The solvent was removed by distillation and residue diluted with 3N HCl (500 mL) and refluxed for 2 h. The reaction mixture was then concentrated under vacuum and product extracted with pet. ether (3×200 mL). The organic layer was washed with 10% NaHCO3 solution and evaporated to give 5-bromo-1-benzofuran (15 g, 40%) as a pale yellow liquid.

reactant | 2-formyl-4-bromophenoxy acetic acid | 0.192 mol, 50 g | C(=O)C1=C(OCC(=O)O)C=CC(=C1)Br | C9H7BrO4
reactant | sodium acetate | 1.21 mol, 100 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-1-benzofuran | 15 g, 40% | BrC=1C=CC2=C(C=CO2)C1 | C8H5BrO
